US08802673B2
To a stirred solution of (RS)-2-[4-(4-chloro-benzylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester (68 mg) in THF (2 ml) was added dropwise a solution of hydrogen chloride in dioxane (0.34 ml, 4 M solution) and the mixture was heated at 60° C. overnight. The mixture was then cooled to room temperature and poured into 1 M aq. sodium hydroxide solution. The mixture was extracted twice with ethyl acetate and the combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography (Isolute® Flash-NH2 from Separtis; gradient: heptane/ethyl acetate/methanol) to afford (RS)-(4-chloro-benzyl)-(4-morpholin-2-yl-phenyl)-amine (36 mg, 70%) as a white solid. MS (ISP): 305.1 ([{37Cl}M+H]+), 303.2 ([{35Cl}M+H]+).

reactant | (RS)-2-[4-(4-chloro-benzylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester | 68 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=CC=C(C=C1)NCC1=CC=C(C=C1)Cl | C22H27ClN2O3
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | dioxane | 4 M, 0.34 ml | O1CCOCC1 | C4H8O2
product | (RS)-(4-chloro-benzyl)-(4-morpholin-2-yl-phenyl)-amine | 36 mg, 70% | ClC1=CC=C(CNC2=CC=C(C=C2)C2CNCCO2)C=C1 | C17H19ClN2O
